US04792616
by using 2-isopropylideneaminooxy-ethanol and 2-bromopropionyl bromide there is obtained 2-isopropylideneaminooxy-ethyl 2-bromopropionate, nD20 1.4710.

reactant | 2-isopropylideneaminooxy-ethanol | C(C)(C)=NOCCO | C5H11NO2
reactant | 2-bromopropionyl bromide | BrC(C(=O)Br)C | C3H4Br2O
product | 2-isopropylideneaminooxy-ethyl 2-bromopropionate | BrC(C(=O)OCCON=C(C)C)C | C8H14BrNO3
